* C:\Users\PRANAV ARYA\Documents\GitHub\ECN351-Lab\invertor.asc
XU1 0 N003 N001 N005 vout LM741/NS
V1 N005 0 -12
V2 N001 0 12
R1 vout N003 1k
R2 N003 N002 1k
V3 N002 0 SINE(0 2 1k) AC 1
.tran 0 100m 90m 1m
.include C:\Users\PRANAV ARYA\Documents\GitHub\ECN351-Lab\LM741.MOD
.backanno
.end
